US07528160B2
7-Hydroxy-3,4-dihydro-1H-quinolin-2-one
A solution of 7-methoxy-3,4-dihydro-1H-quinolin-2-one (1.30 g, 7.34 mmol) in CH2Cl2 (100 mL) at 0° C. is treated with BBr3 (14.7 mL, 1.0 M in CH2Cl2) added dropwise. The mixture is stirred for 48 hours at room temperature and then quenched with water dropwise. The suspension is filtered and the solid is rinsed with MeOH (2 mL) and dried under vacuum to obtain the product (0.90 g, 75%).

reactant | 7-methoxy-3,4-dihydro-1H-quinolin-2-one | 7.34 mmol, 1.30 g | COC1=CC=C2CCC(NC2=C1)=O | C10H11NO2
reactant | BBr3 | 1.0 M, 14.7 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 7-Hydroxy-3,4-dihydro-1H-quinolin-2-one | 0.90 g, 75% | OC1=CC=C2CCC(NC2=C1)=O | C9H9NO2
